US08389728B2
4. 10-(Methylsulfinyl)-10-azabicyclo[4.3.1]decane
A mixture of 10-azabicyclo[4.3.1]decane hydrochloride (10 mg, 0.057 mmol) in anhydrous diethyl ether (1 mL) was cooled in an ice bath. The reaction mixture was treated with triethylamine (0.1 mL, 0.72 mmol) and methanesulfinyl chloride (10 mg, 0.1 mmol). The reaction vial was sealed and placed in a −40° C. freezer overnight. The reaction mixture was warmed to room temp, diluted with ether (2 mL), washed with water (2×1 mL), sat. aq. KCl (1×2 mL), dried (MgSO4) and concentrated in vacuo. Flash chromatography (SiO2, ethyl acetate eluant) afforded the product as an oil (8.1 mg, 71%): 1H NMR (CDCl3, 600 MHz, δ) 4.02 (br quin, 1H, J=4 Hz, C1- or C9-H), 3.84 (br quin, 1H, J=4 Hz, C1- or C9-H), 2.55 (s, 3H, C1′H), 1.88-1.72 (m, 5H), 1.65-1.48 (m, 9H); ESIMS m/z 224.1 (89, MNa+), 202.1 (base, MH+); ESIHRMS m/z 202.1260 (calculated for C10H20NOS 202.1260).

reactant | 10-azabicyclo[4.3.1]decane hydrochloride | 0.057 mmol, 10 mg | Cl.C12CCCCC(CCC1)N2
reactant | triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfinyl chloride | 0.1 mmol, 10 mg | CS(=O)Cl | CH3ClOS
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
product | 10-(Methylsulfinyl)-10-azabicyclo[4.3.1]decane | 8.1 mg, 71% | CS(=O)N1C2CCCCC1CCC2 | C10H19NOS
